US09210927B2
Preparation of (E)-N-(1-(2-Cyano-4-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-en-1-yl)phenyl)-1H-1,2,4-triazol-3-yl)-N-(cyclopropanecarbonyl)cyclopropanecarboxamide (DC42)
To a stirred solution of (E)-2-(3-amino-1H-1,2,4-triazol-1-yl)-5-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-enyl)benzonitrile (0.1 g, 0.21 mmol) in CH2Cl2 at ambient temperature, was added cyclopropylcarbonyl chloride (0.045 g, 0.42 mmol) and the reaction mixture was stirred for 2 h at ambient temperature. The reaction mixture was diluted with CH2Cl2 and washed with water and brine and dried over Na2SO4. Concentration under reduced pressure and purification by preparative HPLC afforded the title compound as a solid (0.09 g, 79%): mp 104-107° C.; 1H NMR (300 MHz, CDCl3) δ 8.78 (s, 2H), 7.83 (s, 1H), 7.80 (m, 2H), 7.42 (s, 2H), 6.65 (d, J=16.4 Hz, 1H), 6.51 (dd, J=7.6, 8.0 Hz, 1H), 4.17 (m, 1H), 2.16 (m, 2H), 1.25 (m, 4H), 1.00 (m, 4H); ESIMS m/z 609.98 ([M+H]+); IR (thin film) 2234, 1714, 1114, 807 cm−1.

reactant | (E)-2-(3-amino-1H-1,2,4-triazol-1-yl)-5-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-enyl)benzonitrile | 0.21 mmol, 0.1 g | NC1=NN(C=N1)C1=C(C#N)C=C(C=C1)\C=C\C(C(F)(F)F)C1=CC(=C(C(=C1)Cl)Cl)Cl | C19H11Cl3F3N5
reactant | cyclopropylcarbonyl chloride | 0.42 mmol, 0.045 g | C1(CC1)C(=O)Cl | C4H5ClO
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (E)-N-(1-(2-Cyano-4-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-en-1-yl)phenyl)-1H-1,2,4-triazol-3-yl)-N-(cyclopropanecarbonyl)cyclopropanecarboxamide | 0.09 g, 79% | C(#N)C1=C(C=CC(=C1)\C=C\C(C(F)(F)F)C1=CC(=C(C(=C1)Cl)Cl)Cl)N1N=C(N=C1)N(C(=O)C1CC1)C(=O)C1CC1 | C27H19Cl3F3N5O2
